US08039500B2
To a solution of 2-[2,6-dichloro-4-(trifluoromethyl)benzyl]-7-[1-ethylprop-1-en-1-yl]-1-methyl-1H-benzimidazole (60 mg, 0.141 mmol) in tetrahydrofuran (1.5 mL) was added a solution of borane-dimethyl sulfide complex in tetrahydrofuran (1.9 M, 1.5 mL, 2.81 mmol) at 0° C. After the reaction mixture was stirred at room temperature for 15 hr, acetic acid (3.0 mL) was added thereto and the mixture was heated at 120° C. for 2 hr. After cooling, the mixture was poured into saturated aqueous sodium bicarbonate solution (50 mL) and extracted with ethyl acetate (50 mL, twice). The combined organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 5-50% ethyl acetate/n-hexane gradient mixture to give 2-{2-[2,6-dichloro-4-(trifluoromethyl)benzyl]-1-methyl-1H-benzimidazol-7-yl}-1-methylbutyl acetate (17 mg, 0.0349 mmol, 25%) and 3-{2-[2,6-dichloro-4-(trifluoromethyl)benzyl]-1-methyl-1H-benzimidazol-7-yl}pentan-2-ol (less polar diastereomer; 2.4 mg, 0.00539 mmol, 4%, more polar diastereomer; 2.5 mg, 0.00562 mmol, 4%).

reactant | 2-[2,6-dichloro-4-(trifluoromethyl)benzyl]-7-[1-ethylprop-1-en-1-yl]-1-methyl-1H-benzimidazole | 0.141 mmol, 60 mg | ClC1=C(CC2=NC3=C(N2C)C(=CC=C3)C(=CC)CC)C(=CC(=C1)C(F)(F)F)Cl | C21H19Cl2F3N2
reactant | acetic acid | 3.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | 3-{2-[2,6-dichloro-4-(trifluoromethyl)benzyl]-1-methyl-1H-benzimidazol-7-yl}pentan-2-ol | ClC1=C(CC2=NC3=C(N2C)C(=CC=C3)C(C(C)O)CC)C(=CC(=C1)C(F)(F)F)Cl | C21H21Cl2F3N2O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.81 mmol, 1.9 M, 1.5 mL | O1CCCC1 | C4H8O
product | 2-{2-[2,6-dichloro-4-(trifluoromethyl)benzyl]-1-methyl-1H-benzimidazol-7-yl}-1-methylbutyl acetate | 0.0349 mmol, 17 mg, 25% | C(C)(=O)OC(C(CC)C1=CC=CC2=C1N(C(=N2)CC2=C(C=C(C=C2Cl)C(F)(F)F)Cl)C)C | C23H23Cl2F3N2O2
